US07026339B2
To a solution of-phenylacetic acid hydrazide (0.24 mmol) in absolute EtOH 10 mL and acetic acid 0.4 mL is added 2-{[(4-methylphenyl)sulfonyl]methyl}benzaldehyde (0.22 mmol). The reaction is stirred at room temperate for 2.5 hr with white ppt formation. The reaction mixture is then filtered. The solid is triturated with MeOH to give N′-[(1E)-(2-{[(4-methylphenyl)sulfonyl]methyl}phenyl)methylene]-2-phenylacetohydrazide in 78% yield. 1H NMR (400 MHz, DMSO-d6) □ 11.50–11.25 (2s, 1H), 8.22–8.13 (2s, 1H), 7.79 (m, 1H), 7.56 (m, 2H), 7.31 (m, 10H), 4.93–4.80 (2s, 2H), 3.95–3.57 (2s, 2H), 2.36–2.31 (2s, 3H). ESI− for C23H22N2O3S, m/z 405 (M−H)−.

reactant | phenylacetic acid hydrazide | 0.24 mmol | C1(=CC=CC=C1)CC(=O)NN | C8H10N2O
reactant | 2-{[(4-methylphenyl)sulfonyl]methyl}benzaldehyde | 0.22 mmol | CC1=CC=C(C=C1)S(=O)(=O)CC1=C(C=O)C=CC=C1 | C15H14O3S
solvent | EtOH | 10 mL | CCO | C2H6O
solvent | acetic acid | 0.4 mL | C(C)(=O)O | C2H4O2
product | N′-[(1E)-(2-{[(4-methylphenyl)sulfonyl]methyl}phenyl)methylene]-2-phenylacetohydrazide | 78% yield | CC1=CC=C(C=C1)S(=O)(=O)CC1=C(C=CC=C1)\C=N\NC(CC1=CC=CC=C1)=O | C23H22N2O3S
